US04870082
Preparation of 4-methoxybenzoic acid (2-quinolinylmethylene)hydrazide, Compound 22
A mixture of 3.14 gm (0.02 mole) of 2-quinolinecarboxaldehyde, 3.32 gm (0.02 mole) of 4-methoxybenzhydrazide and 100 ml of ethanol is refluxed for 9 hrs. The hot solution is filtered and cooled slowly to room temperature. The mixture is chilled. The crystals which separate are collected. The crude mixture is crystallized from ethyl acetate and recrystallized from tetrahydrofuran to yield 3.0 gm (49%) of title compound, having a melting point of 220°-222° C.

reactant | 2-quinolinecarboxaldehyde | 0.02 mole, 3.14 gm | N1=C(C=CC2=CC=CC=C12)C=O | C10H7NO
reactant | 4-methoxybenzhydrazide | 0.02 mole, 3.32 gm | COC1=CC=C(C(=O)NN)C=C1 | C8H10N2O2
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 4-methoxybenzoic acid (2-quinolinylmethylene)hydrazide | 3.0 gm, 49% | N1=C(C=CC2=CC=CC=C12)C=NNC(C1=CC=C(C=C1)OC)=O | C18H15N3O2
